US07495007B2
In a manner similar to the method described in example 4b, E/Z-3-benzylidene-6-chloro-1,3-dihydro-indol-2-one (1.5 g, 5.87 mmol) was reacted with ethyl chloroformate (0.83 mL, 8.8 mmol) and triethylamine (1.64 mL, 12 mmol) in dichloromethane to give E/Z-3-benzylidene-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid ethyl ester as a yellow solid (Yield 2.0 g, 100%).

reactant | Z-3-benzylidene-6-chloro-1,3-dihydro-indol-2-one | 5.87 mmol, 1.5 g | C(/C1=CC=CC=C1)=C\1/C(NC2=CC(=CC=C12)Cl)=O | C15H10ClNO
reactant | ethyl chloroformate | 8.8 mmol, 0.83 mL | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 12 mmol, 1.64 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Z-3-benzylidene-6-chloro-2-oxo-2,3-dihydro-indole-1-carboxylic acid ethyl ester | Yield 2.0 g, 100% | C(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=CC=CC=C1)=O | C18H14ClNO3
